US03988373
A solution of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine (3.0 g) and α,3,4-trichlorotoluene (4.0 g) in methanol (15 cc) was refluxed for 2 hours, and thereto were added ethanol (40 cc) and then an aqueous solution of potassium iodide (3.0 g). The solvent of the reaction mixture was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of methanol and ether to give colorless crystals (4.0 g) of [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(3,4-dichlorobenzyl)ammonium iodide, m.p. 160°-165° C.

reactant | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethylamine | 3.0 g | CC(\C=C\C1C(=CCCC1(C)C)C)N(C)C | C15H27N
reactant | α,3,4-trichlorotoluene | 4.0 g | ClCC1=CC(=C(C=C1)Cl)Cl | C7H5Cl3
reactant | ethanol | 40 cc | C(C)O | C2H6O
reactant | potassium iodide | 3.0 g | [I-].[K+]
solvent | methanol | 15 cc | CO | CH4O
product | [1-methyl-3-(2,6,6-trimethyl-2-cyclohexenyl)-2(trans)-propenyl]dimethyl(3,4-dichlorobenzyl)ammonium iodide | 4.0 g | [I-].CC(\C=C\C1C(=CCCC1(C)C)C)[N+](CC1=CC(=C(C=C1)Cl)Cl)(C)C | InChI=1S/C22H32Cl2N.HI/c1-16-8-7-13-22(3,4)19(16)11-9-17(2)25(5,6)15-18-10-12-20(23)21(24)14-18;/h8-12,14,17,19H,7,13,15H2,1-6H3;1H/q+1;/p-1/b11-9+;
